US07691892B2
k) 4-{4-Cyclopropyl-5-[2-(2-fluoro-5-methyl-phenyl)-2H-tetrazol-5-ylmethoxy]-4H-[1,2,4]triazol-3-yl}-pyridine
The title compound is prepared from [2-(2-fluoro-5-methyl-phenyl)-2H-tetrazol-5-yl]-methanol (1 mmol), sodium hydride (1.5 mmol) and 4-(4-cyclopropyl-5-methanesulfonyl-4H-[1,2,4]triazol-3-yl)-pyridine (1.25 mmol).

reactant | [2-(2-fluoro-5-methyl-phenyl)-2H-tetrazol-5-yl]-methanol | 1 mmol | FC1=C(C=C(C=C1)C)N1N=C(N=N1)CO | C9H9FN4O
reactant | sodium hydride | 1.5 mmol | [H-].[Na+]
reactant | 4-(4-cyclopropyl-5-methanesulfonyl-4H-[1,2,4]triazol-3-yl)-pyridine | 1.25 mmol | C1(CC1)N1C(=NN=C1S(=O)(=O)C)C1=CC=NC=C1 | C11H12N4O2S
product | 4-{4-Cyclopropyl-5-[2-(2-fluoro-5-methyl-phenyl)-2H-tetrazol-5-ylmethoxy]-4H-[1,2,4]triazol-3-yl}-pyridine | C1(CC1)N1C(=NN=C1OCC=1N=NN(N1)C1=C(C=CC(=C1)C)F)C1=CC=NC=C1 | C19H17FN8O
